US07582626B2
a) 6-(4-Fluoro-benzylamino)-cyclohex-3-enecarboxylic acid ethyl ester
cis-6-Amino-cyclohex-3-enecarboxylic acid ethyl ester hydrochloride (411.4 mg, 2 mmol) and anhydrous tetrahydrofuran (20 mL) were mixed to form slurry. Triethylamine (295 μL, 2.1 mmol), magnesium sulfate (685 mg), and 4-fluoro-benzaldehyde (450 μL, 4.1 mmol) were added at 25° C. and the resulted mixture was stirred at 25° C. for 16 h. The precipitated solid was filtered off and the filtrate was concentrated in vacuo at 25° C. to give an oil. This oil was dissolved in methanol (35 mL) and sodium borohydride (155 mg, 4.1 mmol) was then added portionwise at 25° C. The mixture was stirred at 25° C. for 1 h. Saturated aqueous sodium bicarbonate solution (15 mL) was added, extracted with ethyl acetate (3×40 mL) and the organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the desired product, 6-(4-fluoro-benzylamino)-cyclohex-3-enecarboxylic acid ethyl ester (537.6 mg, 1.94 mmol, 96.9%). This crude product was directly used in next step without further purification. LC-MS (ESI) calcd for C16H20FNO2 277.2, found 278.2 [M+H+].

reactant | cis-6-Amino-cyclohex-3-enecarboxylic acid ethyl ester hydrochloride | 2 mmol, 411.4 mg | Cl.C(C)OC(=O)[C@@H]1CC=CC[C@@H]1N
reactant | Triethylamine | 2.1 mmol, 295 μL | C(C)N(CC)CC | C6H15N
reactant | magnesium sulfate | 685 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 4-fluoro-benzaldehyde | 4.1 mmol, 450 μL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium borohydride | 4.1 mmol, 155 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 35 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 6-(4-fluoro-benzylamino)-cyclohex-3-enecarboxylic acid ethyl ester | 1.94 mmol, 537.6 mg, 96.9% | C(C)OC(=O)C1CC=CCC1NCC1=CC=C(C=C1)F | C16H20FNO2
